US03996373
13.4 g of 9,10-bis-bromomethyl-phenanthrene [see S. Hauptmann, Chem. Ber. 93, 2604 (1960)] is added within one hour, with stirring, to a solution of 37.5 g of methylamine in 225 ml of methanol, with the reaction temperature being maintained at 45°-50°. The reaction mixture is stirred for a further hour at 50°, and the solvent and excess methylamine are subsequently distilled off. 50 ml of water is added to the residue, and the formed suspension is extracted with ether. The ethereal solution is washed with water, dried over potassium carbonate and concentrated by evaporation. The residue is recrystallised from acetone to yield 2-methyl-2,3-dihydro-1H-dibenz[e,g]isoindole, m.p. 122°-123°.

reactant | 9,10-bis-bromomethyl-phenanthrene | 13.4 g | BrCC=1C2=CC=CC=C2C=2C=CC=CC2C1CBr | C16H12Br2
reactant | methylamine | 37.5 g | CN | CH5N
solvent | methanol | 225 ml | CO | CH4O
product | 2-methyl-2,3-dihydro-1H-dibenz[e,g]isoindole | CN1CC2=C3C(=C4C(=C2C1)C=CC=C4)C=CC=C3 | C17H15N
